US05635510
52.4 Synthesis of 2-[3-(3-trifluoromethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-[3-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-ethanol (23 mmol) and 3,4,5-trimethoxy-benzoyl chloride (23 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3-trifluoromethyl-phenyl)-pyrrolidin-3-yl]-ethanol | 23 mmol | FC(C=1C=C(C=CC1)C1(CNCC1)CCO)(F)F | C13H16F3NO
reactant | 3,4,5-trimethoxy-benzoyl chloride | 23 mmol | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 2-[3-(3-trifluoromethyl-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | FC(C=1C=C(C=CC1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCO)(F)F | C23H26F3NO5
